US05075313
[Route A/E modified] To a solution of 3-indoleacetic acid (5.79 g, 33.1 mmol) in 100 ml THF at room temperature was added 1,1-carbonyldiimidazole (5.36 g, 33.1 mmol). The reaction mixture was stirred for 15 minutes under nitrogen. Methyl anthranilate (5.0 g, 33.1 mmol) and PPTS (20.0 g, 80 mmol) were added to the reaction mixture which was then stirred at reflux for 24 hours, cooled, and concentrated to near dryness in vacuo. The product residue was partitioned between 1N hydrochloric acid and ethyl acetate. The two-phase mixture was heated until two clear layers were obtained. The aqueous layer was separated and the organic layer was allowed to cool, washed (water, lN NaOH, and brine), dried over anhydrous sodium sulfate, and concentrated in vacuo to dryness. The resulting product was triturated with ethyl acetate/hexane and collected by vacuum-assisted filtration to give 8.85 g of 2-(3-indolyl)-N-(2-methoxycarbonylphenyl)acetamide as a pale yellow granular solid which was deesterified by refluxing it in a mixture of 100 ml of methanol and 32 ml of lM NaOH for 30 minutes. The product acid was isolated by concentrating the deesterification mixture in vacuo, acidifying with 40 ml of lN hydrochloric acid, and then extracting it into ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated in vacuo to dryness. Trituration with ethyl acetate/hexanes and vacuum-assisted filtration provided 8.0 g of 2-(3-indolyl)-N-(2-carboxyphenyl)acetamide as an off-white solid: mp 205°-207° C.

reactant | 3-indoleacetic acid | 33.1 mmol, 5.79 g | N1C=C(C2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | Methyl anthranilate | 33.1 mmol, 5.0 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | PPTS | 80 mmol, 20.0 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-(3-indolyl)-N-(2-methoxycarbonylphenyl)acetamide | 8.85 g | N1C=C(C2=CC=CC=C12)CC(=O)NC1=C(C=CC=C1)C(=O)OC | C18H16N2O3
